US04868202
17.4 g of phenylacetylenecarboxylic acid ethyl ester and 15.6 g of N-(2-cyanoethyl)-N-formylglycine are dissolved in 100 ml of acetic anhydride, and the solution is refluxed for 24 h. The mixture is concentrated by evaporation under reduced pressure; the residue is then taken up in toluene, and purified by chromatography through silica gel. The solvent is evaporated off, and from the eluate is obtained 4-ethoxycarbonyl-1-(2-cyanoethyl)-3-phenylpyrrole in the form of a yellow oil (compound No. 3.3).

reactant | phenylacetylenecarboxylic acid ethyl ester | 17.4 g | C(C)OC(=O)C#CC1=CC=CC=C1 | C11H10O2
reactant | N-(2-cyanoethyl)-N-formylglycine | 15.6 g | C(#N)CCN(CC(=O)O)C=O | C6H8N2O3
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-ethoxycarbonyl-1-(2-cyanoethyl)-3-phenylpyrrole | C(C)OC(=O)C=1C(=CN(C1)CCC#N)C1=CC=CC=C1 | C16H16N2O2
